US07338959B2
5-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-2-methyl-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 5-amino-2-methyl-benzenesulfonamide (46 mg, 0.25 mmol) as a white solid (83 mg, 58%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.54 (s, 1H), 8.56 (s, 1H), 7.80 (d, J=6.3 Hz, 1H), 7.68 (dd, J=8.2 and 1.6 Hz, 1H), 7.15-7.47 (m, 10H), 7.03 (d, J=7.8 Hz, 1H), 5.69 (d, J=6.0 Hz, 1H), 4.68 (d, J=5.7 Hz, 2H), 4.21 (m, 2H), 3.46 (s, 3H), 2.50 (s, 3H), 1.28 (t, J=6.9 Hz, 3H). MS (ESI) m/z=543 [M+H]+.

reactant | N2-Benzyl-N5-(2-chloro-pyrimidin-4-yl)-1-ethyl-N5-methyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl | C21H21ClN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.25 mmol, 46 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-{4-[(2-Benzylamino-1-ethyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-2-methyl-benzenesulfonamide hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC2=C(N1CC)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=CC(=C(C2)S(=O)(=O)N)C)C | InChI=1S/C28H30N8O2S.ClH/c1-4-36-24-13-12-22(17-23(24)33-28(36)31-18-20-8-6-5-7-9-20)35(3)26-14-15-30-27(34-26)32-21-11-10-19(2)25(16-21)39(29,37)38;/h5-17H,4,18H2,1-3H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
